US04326055
In a manner analogous to that described in Example 11, from p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid and morpholine there can be obtained p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid morpholide of melting point 143°-144° C.

reactant | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)C | C24H28O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-benzoic acid morpholide | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C(=O)N2CCOCC2)C=C1)/C)C | C28H35NO2
